US08105662B2
A mixture of 2,5-dihydroxybenzoic acid (3.9 g), 1,8-diazobicyclo[5.5.0]undec-7-ene (3.8 g), 8-chlorooctyl tetrahydro-2-furancarboxylate (6.0 g), potassium iodide (30.2 g) and acetonitrile (110 ml) was heated, under reflux for 72 h. The cooled reaction mixture was added to water (500 ml) and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with 1N-hydrochloric acid (150 ml) and water (2×15 ml), dried over magnesium sulphate and filtered. The solvent was removed in vacuum. The residue (8.0 g) was purified by column flash chromatography on silica gel using toluene/ethyl acetate (3:1) as eluent, to give 8-[(2,5-dihydroxybenzoyl)oxy]octyltetrahydro-2-furancarboxylate as colourless oil.

reactant | 2,5-dihydroxybenzoic acid | 3.9 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | 8-chlorooctyl tetrahydro-2-furancarboxylate | 6.0 g | O1C(CCC1)C(=O)OCCCCCCCCCl | C13H23ClO3
reactant | potassium iodide | 30.2 g | [I-].[K+]
reactant | acetonitrile | 110 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | 8-[(2,5-dihydroxybenzoyl)oxy]octyltetrahydro-2-furancarboxylate | OC1=C(C(=O)OCCCCCCCCOC(=O)C2OCCC2)C=C(C=C1)O | C20H28O7
